US04902701
(C) 2-Methoxy-6-(5-tetrazolyl)xanthone.
6-Cyano-2-methoxyxanthone (12.6 g) was heated with sodium azide (3.41 g) and ammonium chloride (2.95 g) in dimethylformamide (100 ml) at 125° for 6 h. The reaction mixture was diluted with water and acidified with excess hydrochloric acid. The precipitated 2-methoxy-6-(5-tetrazolyl)xanthone was filtered off, washed with water, and recrystallised from dimethylformamide, decomposes above 300°.

reactant | 6-Cyano-2-methoxyxanthone | 12.6 g | C(#N)C=1C=C2OC=3C=CC(=CC3C(C2=CC1)=O)OC | C15H9NO3
reactant | sodium azide | 3.41 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.95 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Methoxy-6-(5-tetrazolyl)xanthone | COC1=CC=2C(C3=CC=C(C=C3OC2C=C1)C1=NN=NN1)=O | C15H10N4O3
